US03963675
A mixture of 2 g of 2-(2-carboxyethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene, 150 ml of absolute benzene and 4 ml of dimethoxy-dimethylamino-methane was heated for 5 hours to reflux. The solution was concentrated and the residue, obtained as a red oil, chromatographed on 50 g of silicagel with hexane/ether (19:1). There were obtained 1.95 g (91%) of 2-(2-carbomethoxyethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene; boiling point 0.01 about 70°C; nD20 = 1.4761; IRfilm : μmax = 3100, 1742, 1645, 1440, 1375, 1330, 1255, 1195, 1170, 1085, 1025, 990, 895 and 840 cm-1. The compound has a floral, woody, ester-like fragrance.

reactant | 2-(2-carboxyethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene | 2 g | C(=O)(O)CCC1=C(CCC1C(=C)C)C | C12H18O2
reactant | dimethoxy-dimethylamino-methane | 4 ml | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-carbomethoxyethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene | 1.95 g, 91% | C(=O)(OC)CCC1=C(CCC1C(=C)C)C | C13H20O2
